### PR TITLE
[Merged by Bors] - feat: distance on the set of measurable sets given by the measure of the symmetric difference

### PR DESCRIPTION
**Pull request by sgouezel**
We also give a density criterion for this distance for a ring of sets generating the sigma-algebra.

Needed for #34055.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/MeasuredSets.lean [hunk 1]
```diff
@@ -0,0 +1,185 @@
...
+instance : SetLike (MeasuredSets μ) α where
+  coe s := s.1
+  coe_injective' := Subtype.coe_injective
+
+instance : PseudoEMetricSpace (MeasuredSets μ) where
+  edist s t := μ ((s : Set α) ∆ t)
+  edist_self := by simp
+  edist_comm := by grind
+  edist_triangle s t u := measure_symmDiff_le _ _ _
+
```
Comment (ocfnash) [inline Mathlib/MeasureTheory/Measure/MeasuredSets.lean:51]: Should we also add:
```suggestion

instance [IsFiniteMeasure μ] : PseudoMetricSpace (MeasuredSets μ) where
  dist s t := (μ ((s : Set α) ∆ t)).toReal
  -- etc
```
?

File: Mathlib/MeasureTheory/Measure/MeasuredSets.lean [hunk 2]
```diff
@@ -0,0 +1,185 @@
...
+        gcongr
+        simp [symmDiff]
+      _ ≤ μ x + ε := by
+        gcongr
+
+lemma exists_measure_symmDiff_lt_of_generateFrom_isSetRing [IsFiniteMeasure μ]
+    {C : Set (Set α)} (hC : IsSetRing C)
+    (h'C : ∃ D : Set (Set α), D.Countable ∧ D ⊆ C ∧ μ (⋃₀ D)ᶜ = 0) (h : mα = generateFrom C)
+    {s : Set α} (hs : MeasurableSet s) {ε : ℝ≥0∞} (hε : 0 < ε) :
+    ∃ t ∈ C, μ (t ∆ s) < ε := by
```
Comment (ocfnash) [inline Mathlib/MeasureTheory/Measure/MeasuredSets.lean:104]: IIUC this is almost saying:
```lean
    (s : MeasuredSets μ) :
    ∃ᶠ t in 𝓝 s, t.val ∈ C := by
```
(except that we shouldn't really break through the type synonym with `t.val`). Is it worth adding a lemma in this language?

Comment (ocfnash) [reply Mathlib/MeasureTheory/Measure/MeasuredSets.lean:104]: Or even:
```lean
    letI f : C → MeasuredSets μ := fun t ↦ ⟨t, h ▸ measurableSet_generateFrom t.property⟩
    Dense (range f) := by
```
(though maybe this will never be used like this?)

Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/MeasuredSets.lean:104]: I went for a version saying that the preimage of `C` under the coercion is dense.

**Comment by ocfnash** [comment]
Thanks!

Bors merge
